US05185342
Production of 2-(2-phenoxyphenyl)-2-methoxyiminoacetamide (Compound No. 1)
To a solution of methyl-(2-phenoxyphenyl)-2-oxoacetate (0.70 g) in methanol (10 ml), 28% aqueous ammonium hydroxide (2.0 ml) was added, and the resultant mixture was stirred overnight, followed by removal of the solvent under reduced pressure. The residue was combined with diethyl ether (150 ml) and water (50 ml) under stirring and, upon dissolution, allowed to stand. The organic layer was separated, washed and dried over anhydrous sodium sulfate. Upon filtration, the filtrate was concentrated under reduced pressure to give residual yellow crystals, which were combined with methanol (10 ml) and O-methylhydroxylamine hydrochloride (1.49 g) while stirring and refluxed for 6 hours. Water (50 ml) was added to the reaction mixture, which was extracted with diethyl ether. The organic layer was washed with water and dried over anhydrous sodium sulfate, followed by filtration. The filtrate was concentrated under reduced pressure to give oily residue. The residue was purified by silica gel column chromatography with benzene to give 0.36 g of the objective compound. nD23.3 1.5978.

reactant | methyl-(2-phenoxyphenyl)-2-oxoacetate | 0.70 g | COC(C(=O)C1=C(C=CC=C1)OC1=CC=CC=C1)=O | C15H12O4
reactant | O-methylhydroxylamine hydrochloride | 1.49 g | Cl.CON
reactant | Water | 50 ml | O | H2O
reactant | ammonium hydroxide | 2.0 ml | [OH-].[NH4+]
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | 2-(2-phenoxyphenyl)-2-methoxyiminoacetamide | 0.36 g | O(C1=CC=CC=C1)C1=C(C=CC=C1)C(C(=O)N)=NOC | C15H14N2O3
